US05891902
Ethyl 3-{bis[4-(methoxymethoxy)phenyl]methyl}-indole-2-carboxylate
Substantially the same procedure as in Example 1 was repeated using 4,4'-bis(methoxymethoxy)benzhydrol (6.22 g, 32.9 mmol) and ethyl indole-2-carboxylate (10.0 g, 32.9 mmol) to give 12.9 g (yield: 89%) of the title compound.

reactant | 4,4'-bis(methoxymethoxy)benzhydrol | 32.9 mmol, 6.22 g | COCOC1=CC=C(C(C2=CC=C(C=C2)OCOC)O)C=C1 | C17H20O5
reactant | ethyl indole-2-carboxylate | 32.9 mmol, 10.0 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
product | Ethyl 3-{bis[4-(methoxymethoxy)phenyl]methyl}-indole-2-carboxylate | 12.9 g, yield: 89% | COCOC1=CC=C(C=C1)C(C1=C(NC2=CC=CC=C12)C(=O)OCC)C1=CC=C(C=C1)OCOC | C28H29NO6
